US08476294B2
Stage 27.1.2 4-Bromo-1,2-diethoxy-benzene
A mixture of 4-bromocatechol (Aldrich, Buchs, Switzerland, 500 mg, 2.65 mmol), potassium carbonate (1.1 g, 7.94 mmol) and iodoethane (1.03 g, 6.61 mmol) in 10 ml DMF was stirred protected from the light for 17 h at rt. The reaction mixture was quenched with 50 ml saturated aqueous NaHCO3 and extracted with EtOAc (2×). The organic layers were washed with saturated aqueous NaHCO3 (4×) and brine, dried over Na2SO4, filtered and evaporated. The residue was purified by flash chromatography (petrol ether/diethyl ether 0% to 10%) to give the title compound as a colorless oil. (HPLC: tR 3.79 min (Method A)).

reactant | 4-bromocatechol | 2.65 mmol, 500 mg | BrC=1C=C(C(O)=CC1)O | C6H5BrO2
reactant | potassium carbonate | 7.94 mmol, 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 6.61 mmol, 1.03 g | ICC | C2H5I
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-Bromo-1,2-diethoxy-benzene | BrC1=CC(=C(C=C1)OCC)OCC | C10H13BrO2
